US07429597B2
6-chloro-4-[(1R/S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-7-{(2R/S)-2-[(N-methyl-N-(pyridin-2-ylmethyl)-amino)-methyl]-piperidin-1-yl-carbonyl}-quinazoline
Prepared analogously to Example 37a from 6-chloro-4-[1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-7-hydroxycarbonyl-quinazoline, pentafluorophenyl-tetramethyluronium-hexafluorophosphate (PFTU), diisopropylethylamine and N-methyl-N-(piperidin-2-ylmethyl)-pyridin-2-ylmethyl-amine in DMSO at ambient temperature.

reactant | 6-chloro-4-[1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-7-hydroxycarbonyl-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C18H13Cl2N5O2
reactant | pentafluorophenyl-tetramethyluronium hexafluorophosphate | FC1=C(C(=C(C(=C1OC(=[N+](C)C)N(C)C)F)F)F)F.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methyl-N-(piperidin-2-ylmethyl)-pyridin-2-ylmethyl-amine | CN(CC1NCCCC1)CC1=NC=CC=C1 | C13H21N3
solvent | DMSO | CS(=O)C | C2H6OS
product | 6-chloro-4-[(1R/S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-7-{(2R/S)-2-[(N-methyl-N-(pyridin-2-ylmethyl)-amino)-methyl]-piperidin-1-yl-carbonyl}-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1C(CCCC1)CN(CC1=NC=CC=C1)C)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C31H32Cl2N8O
